US06803380B1
b) 1-(4-methoxy-phenyl)-5-(4-methylsulfonyl-phenyl)-1H-1,2,4-triazole
A mixture of N-(dimethylamino-methylene)-4-(methyl-sulfonyl)-benzamide (4 g, 15.7 mol), 4-methoxy-phenylhydrazine hydrochloride (2.75 g, 15.7 mmol), triethylamine (2.2 ml, 15.7 mmol) in ethanol (20 ml) was heated to reflux for 25 h. After cooling, the reaction mixture was concentrated to dryness, then diluted with ethyl acetate. The organic phase was washed with water and saturated brine and dried over sodium sulfate. The residue was chromatographed on silica gel using a 70/30 mixture of toluene/dioxane as the eluent, then recrystallized from ethanol to give a light orange solid (0.4 g, 15%).

reactant | N-(dimethylamino-methylene)-4-(methyl-sulfonyl)-benzamide | 15.7 mol, 4 g | CN(C)C=NC(C1=CC=C(C=C1)S(=O)(=O)C)=O | C11H14N2O3S
reactant | 4-methoxy-phenylhydrazine hydrochloride | 15.7 mmol, 2.75 g | Cl.COC1=CC=C(C=C1)NN
reactant | triethylamine | 15.7 mmol, 2.2 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(4-methoxy-phenyl)-5-(4-methylsulfonyl-phenyl)-1H-1,2,4-triazole | 0.4 g, 15% | COC1=CC=C(C=C1)N1N=CN=C1C1=CC=C(C=C1)S(=O)(=O)C | C16H15N3O3S
